US06951879B2
In analogy to example 17.1; Methanesulfonic acid 4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester and 2-Ethylaminoethanol were converted to yield 2-(Ethyl-{4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-butyl}-amino)-ethanol as light yellow oil, MS: 423 (MH+).

reactant | Methanesulfonic acid 4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCOS(=O)(=O)C)(F)F | C19H18F3NO3S2
reactant | 2-Ethylaminoethanol | C(C)NCCO | C4H11NO
product | 2-(Ethyl-{4-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-butyl}-amino)-ethanol | C(C)N(CCO)CCCCC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C22H25F3N2OS
